US05824690
Synthesis of (R)-1-[2-[3-(3,4-dichloro-phenyl)-1-(4-methoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Combine (R)-1-[2-[3-(3,4-dichloro-phenyl)-1-(4-methoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide oxalic acid salt (6.5 g) and dichloromethane/methanol (300 mL/10 mL). Extract twice with a saturate aqueous solution of sodium bicarbonate, water and then brine. Dry the organic layer over MgSO4, filtered and evaporated in vacuo to give the title compound. Elemental Analysis calculated for C32H35 Cl2N3O3 : C 66.20; H 6.08; N 7.24; Found: C 65.92; H 6.06; N 7.03.

reactant | (R)-1-[2-[3-(3,4-dichloro-phenyl)-1-(4-methoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide oxalic acid salt | 6.5 g | C(C(=O)O)(=O)O.ClC=1C=C(C=CC1Cl)[C@@]1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1
solvent | dichloromethane methanol | 300 mL | ClCCl.CO
product | (R)-1-[2-[3-(3,4-dichloro-phenyl)-1-(4-methoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)[C@@]1(CN(CC1)C(C1=CC=C(C=C1)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C32H35Cl2N3O3
